US07635715B2
Step C: Preparation of Methyl N-((6-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-yl)carbonyl)glycinate
A mixture of ethyl 6-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (0.224 g, 0.761 mmol), glycine methyl ester hydrochloride (0.115 g, 0.914 mmol, 99% Aldrich), 1-methyl-2-pyrrolidinone (1.5 mL), and TEA (0.32 mL, 2.28 mmol) was heated at 80° C. for 4 hours. The resulting mixture was cooled to room temperature and treated with water (10 mL) causing a white solid to precipitate. The product was collected by vacuum filtration and rinsed with water. MS m/e=338.0 (M+H)+.

reactant | ethyl 6-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 0.761 mmol, 0.224 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)OCC)O | C15H15ClO4
reactant | glycine methyl ester hydrochloride | 0.914 mmol, 0.115 g | Cl.COC(CN)=O
reactant | 1-methyl-2-pyrrolidinone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 10 mL | O | H2O
product | Methyl N-((6-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-yl)carbonyl)glycinate | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)OC)O | C16H16ClNO5
